### ISSUE TITLE
`simp_all` reorders hypotheses unnecessarily

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#2402]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`simp_all` will reorder hypotheses, even when it can't simplify.

### Steps to Reproduce

```
example : ∀ {A : Prop} (_ : A) (_ : W), W := by
  intros
  rename_i w
  exact w       -- This works

example : ∀ {A : Prop} (_ : A) (_ : W), W := by
  intros
  simp_all
  rename_i w
  exact w     -- Fails, since `simp_all` reordered hypotheses, so we have `w : A`
```

### Expected behaviour

`simp_all` should not reorder hypotheses unnecessarily.

### Versions

`Lean (version 4.0.0-nightly-2023-08-05, commit 254582c00040, Release)`

### Additional Information

This will be fixed incidentally as part of #2334, noting it here so I can link to it from tests.
